US07750155B2
To a solution of (3R)-3-({5-[(1E)-3-methoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-pyrrolidinecarboxylate (10.50 g) in 1,2-dichloroethane (100 mL) was added a 4N HCl in dioxane (100 mL) and the mixture was stirred at 20-25° C. for 2 hours under nitrogen atmosphere to give a solid. The solid was collected by filtration to give methyl (2E)-3-{5-[(3R)-3-pyrrolidinylamino]-2-pyrazinyl}acrylate dihydrochloride (9.73 g).

reactant | (3R)-3-({5-[(1E)-3-methoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-pyrrolidinecarboxylate | 10.50 g | COC(/C=C/C=1N=CC(=NC1)N[C@H]1CN(CC1)C(=O)[O-])=O
reactant | HCl | 4N | Cl | ClH
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | methyl (2E)-3-{5-[(3R)-3-pyrrolidinylamino]-2-pyrazinyl}acrylate dihydrochloride | 9.73 g | Cl.Cl.N1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)OC | InChI=1S/C12H16N4O2.2ClH/c1-18-12(17)3-2-9-7-15-11(8-14-9)16-10-4-5-13-6-10;;/h2-3,7-8,10,13H,4-6H2,1H3,(H,15,16);2*1H/b3-2+;;/t10-;;/m1../s1
